US07834013B2
Ethyl 2-chloro-4-methyl-1,3-thiazole-5-carboxylate (X-1)
A mixture of ethyl 4-methyl-2-oxo-2,3-dihydro-1,3-thiazole-5-carboxylate (0.57 g, 3.05 mmol) and POCl3 (5 mL) was heated at 120° C. for 18 h. Upon cooling, the mixture was concentrated. Water (15 mL) was slowly added and stirred for 10 min. The mixture was extracted with Et2O (3×15 mL). The combined organics were dried with MgSO4 and concentrated. The crude material was purified by chromatography (EtOAc/hexanes) to give the title compound as a white solid (0.54 g, 86%). 1H NMR (400 MHz, CDCl3) δ 4.32 (q, J=7.1 Hz, 2H), 2.68 (s, 3H), 1.35 (t, J=7.1 Hz, 3H).

reactant | ethyl 4-methyl-2-oxo-2,3-dihydro-1,3-thiazole-5-carboxylate | 3.05 mmol, 0.57 g | CC=1NC(SC1C(=O)OCC)=O | C7H9NO3S
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | Ethyl 2-chloro-4-methyl-1,3-thiazole-5-carboxylate | 0.54 g, 86% | ClC=1SC(=C(N1)C)C(=O)OCC | C7H8ClNO2S
